US07141596B2
Step 2. Synthesis of methyl 2-[4-((2S)-2-[(benzyloxy)carbonyl]amino-3-[6-(1,1-dioxido-3-oxoisothiazolidin-5-yl)biphenyl-3-yl]propanoylamino)butoxy]-6-hydroxybenzoate
To a solution of (2S)-2-[(benzyloxy)carbonyl]amino-3-[6-(1,1-dioxido-3-oxoisothiazolidin-5-yl)biphenyl-3-yl]propanoic acid (18.0 mg, 0.0354 mmol) in N,N-dimethylformamide (1.00 mL) was added benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (16.4 mg, 0.0372 mmol) at 0° C. The reaction was stirred for 15 min and then methyl 2-(4-aminobutoxy)-6-hydroxybenzoate (9.32 mg, 0.0389 mmol) and N,N-diisopropylethylamine (18.5 μL, 0.106 mmol) was added. The resulting solution was stirred for 3 h and then diluted with acetonitrile and purified by preparative LCMS to afford a white solid (12.4 mg, 48%). 1H NMR (400 MHz, CD3OD): δ 8.07 (m, 1H), 7.56 (m, 1H), 7.29 (m, 13H), 6.46 (m, 2H), 5.05 (m, 3H), 4.35 (m, 1H), 3.94 (m, 2H), 3.84 (s, 3H), 3.19 (m, 5H), 2.96 (m, 1H), 1.60 (m, 4H). LCMS found for C38H40N3O10S (M+H)+: m/z=730.

reactant | (2S)-2-[(benzyloxy)carbonyl]amino-3-[6-(1,1-dioxido-3-oxoisothiazolidin-5-yl)biphenyl-3-yl]propanoic acid | 0.0354 mmol, 18.0 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC=1C=C(C(=CC1)C1CC(NS1(=O)=O)=O)C1=CC=CC=C1 | C26H24N2O7S
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.0372 mmol, 16.4 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | methyl 2-(4-aminobutoxy)-6-hydroxybenzoate | 0.0389 mmol, 9.32 mg | NCCCCOC1=C(C(=O)OC)C(=CC=C1)O | C12H17NO4
reactant | N,N-diisopropylethylamine | 0.106 mmol, 18.5 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 1.00 mL | CN(C=O)C | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
product | methyl 2-[4-((2S)-2-[(benzyloxy)carbonyl]amino-3-[6-(1,1-dioxido-3-oxoisothiazolidin-5-yl)biphenyl-3-yl]propanoylamino)butoxy]-6-hydroxybenzoate | 12.4 mg, 48% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)NCCCCOC1=C(C(=O)OC)C(=CC=C1)O)CC=1C=C(C(=CC1)C1CC(NS1(=O)=O)=O)C1=CC=CC=C1 | C38H39N3O10S
